US07442713B2
50 ml of HCl 10% are added to 2-[5-(2-acetylaminopyridin-4-yl)-4-(4-fluorophenyl)-1-methyl-1H-imidazol-2-ylsulfanyl]-N,N-bis(2-hydroxyethyl)acetamide (0.6 mmol/0.293 g), and the mixture is stirred at room temperature for 6 h. The mixture is then slowly neutralized using 2N NaOH, resulting in the precipitation of 2-[5-(2-aminopyridi n-4-yl)-4-(4-fluorophenyl)-1-methyl-1H-imidazol-2-ylsulfanyl]-N,N-bis(2-hydroxyethyl)acetamide as a whitish powder. The precipitate is filtered off with suction, washed with a little ice-cold water and dried over P2O5.

reactant | 2-[5-(2-acetylaminopyridin-4-yl)-4-(4-fluorophenyl)-1-methyl-1H-imidazol-2-ylsulfanyl]-N,N-bis(2-hydroxyethyl)acetamide | 0.6 mmol, 0.293 g | C(C)(=O)NC1=NC=CC(=C1)C1=C(N=C(N1C)SCC(=O)N(CCO)CCO)C1=CC=C(C=C1)F | C23H26FN5O4S
reactant | NaOH | 2N | [OH-].[Na+]
solvent | HCl | 50 ml | Cl | ClH
product | 2-[5-(2-aminopyridi n-4-yl)-4-(4-fluorophenyl)-1-methyl-1H-imidazol-2-ylsulfanyl]-N,N-bis(2-hydroxyethyl)acetamide | NC1=NC=CC(=C1)C1=C(N=C(N1C)SCC(=O)N(CCO)CCO)C1=CC=C(C=C1)F | C21H24FN5O3S
